US07595405B2
EDCI (54.0 mg, 0.282 mmol) was added in one portion at 0° C. to a solution of 4′-Methyl-5-tetrazol-1-yl-biphenyl-3-carboxylic acid (60.0 mg, 0.214 mmol), HOBt (40.0 mg, 0.296 mmol) and NMP (101.5 mg, 1.000 mmol) in CH2Cl2 (3 mL). After the reaction stirred at 0° C. for 1 hour, (S)-1-Methyl-2-morpholin-4-yl-ethylamine (50.0 mg, 0.230 mmol) was added. The reaction mixture was allowed to warm to room temperature and was stirred overnight. Solvent was removed under reduced pressure and the residue was purified by column chromatography (EtOAc) to afford 4′-Methyl-5-tetrazol-1-yl-biphenyl-3-carboxylic acid (1-methyl-2-morpholin-4-yl-ethyl)-amide as a white solid (70 mg, 81%). MS (M+H)=407.

reactant | EDCI | 0.282 mmol, 54.0 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4′-Methyl-5-tetrazol-1-yl-biphenyl-3-carboxylic acid | 0.214 mmol, 60.0 mg | CC1=CC=C(C=C1)C1=CC(=CC(=C1)N1N=NN=C1)C(=O)O | C15H12N4O2
reactant | HOBt | 0.296 mmol, 40.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMP | 1.000 mmol, 101.5 mg | CN1CCCC1=O | C5H9NO
reactant | (S)-1-Methyl-2-morpholin-4-yl-ethylamine | 0.230 mmol, 50.0 mg | C[C@@H](CN1CCOCC1)N | C7H16N2O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4′-Methyl-5-tetrazol-1-yl-biphenyl-3-carboxylic acid (1-methyl-2-morpholin-4-yl-ethyl)-amide | 70 mg, 81% | CC(CN1CCOCC1)NC(=O)C=1C=C(C=C(C1)N1N=NN=C1)C1=CC=C(C=C1)C | C22H26N6O2
